US04521418
2-Nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone (5.21 g) and 2-(2-guanidino-4-thiazolylmethylthio)ethylamine (2.98 g) were heated under reflux in dry pyridine for 9 hours. The mixture was evaporated and the residue was washed with water to give 2-[2-(2-guanidino-4-thiazolylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone which was treated with hydrogen chloride in ethanol-ether to give the trihydrochloride (0.92 g). This was converted into the free base by dissolving the material in water, adjusting the mixture to pH 9 with sodium bicarbonate, and extracting the mixture with chloroform and evaporating the extracts to dryness. A sample of the free base recrystallised from aqueous 2-propanol had m.p. 161°-164°.

reactant | 2-Nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | 5.21 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
reactant | 2-(2-guanidino-4-thiazolylmethylthio)ethylamine | 2.98 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[2-(2-guanidino-4-thiazolylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | N(C(=N)N)C=1SC=C(N1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C18H22N8OS2
